US05491159
[2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyloxazol-4-yl]-acetic acid ethyl ester
A mixture of [2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyloxazol-4-yl]-acetic acid (1.5 g, 4.35 mmol), EtOH (50 mL), and concentrated sulfuric acid (0.5 mL) was refluxed for 10 hours. The mixture poured into water, and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and crystallization from ethyl ether/hexane gave a light brown solid (1.35g, 83% yield), m.p. 103°-105° C.

reactant | [2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyloxazol-4-yl]-acetic acid | 4.35 mmol, 1.5 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1OC(=C(N1)CC(=O)O)C | C20H27NO4
reactant | EtOH | 50 mL | CCO | C2H6O
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | [2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyloxazol-4-yl]-acetic acid ethyl ester | 1.35g, 83% yield | C(C)OC(CC=1N=C(OC1C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C22H31NO4
